US08053039B2
9.50 g of 3-methyl-4-nitrobenzoic acid (52.5 mM) were dissolved in 400 ml of THF and 53.1 g of triethylamine (525.0 mM). The solution was cooled to −30° C. and 6.01 g of methansulfochloride (52.5 mM) were added. The mixture was stirred for 1 h at this temperature, then a solution of 8.21 g of 4-pentylphenol (50.0 mM) in 20 ml of THF was added, followed by 100 mg of DMAP. The reaction mixture was stirred for 1 h at −30° C. and was allowed to warm to room temperature while stirred overnight. The next day, the mixture was filtered through a pad of celite filter aid, evaporated to dryness. The residue was flash chromatographed on silica gel using cyclohexane/ethyl acetate: 1/1 as eluent to afford 4-pentylphenyl 3-methyl-4-nitrobenzoate as a yellow oil. Yield: 16.2 g (49.5 mM, 99%).

reactant | 3-methyl-4-nitrobenzoic acid | 52.5 mM, 9.50 g | CC=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C8H7NO4
reactant | 4-pentylphenol | 50.0 mM, 8.21 g | C(CCCC)C1=CC=C(C=C1)O | C11H16O
solvent | THF | 400 ml | C1CCOC1 | C4H8O
solvent | triethylamine | 525.0 mM, 53.1 g | C(C)N(CC)CC | C6H15N
solvent | THF | 20 ml | C1CCOC1 | C4H8O
catalyst | DMAP | 100 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 4-pentylphenyl 3-methyl-4-nitrobenzoate | CC=1C=C(C(=O)OC2=CC=C(C=C2)CCCCC)C=CC1[N+](=O)[O-] | C19H21NO4
